US07645753B2
(6-Chloro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrobromide
A solution of 4-(6-chloro-benzothiazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester (2.60 g, 7.65 mmol) in hydrobromic acid 48% in water (60 mL) was heated to reflux for 18 h. Removal of hydrobromic acid under reduced pressure and precipitation from ethanol (50 mL) provided 3.26 g (99%) of the title compound which was used directly in the next step. 1H NMR (400 MHz, DMSO): δ 1.69-1.79 (m, 2H), 2.14-2.17 (m, 2H), 3.01-3.09 (m, 2H), 3.32-3.35 (m, 2H), 4.06 (br s, 1H), 7.31 (dd, J=8.4 Hz, J=2.4 Hz, 1H), 7.42 (d, J=8.4 Hz, 1H), 7.88 (d, J=2.4 Hz, 1H), 8.52 (br s, 1H), 8.62 (br s, 1H), 9.00 (br s, 1H). MS (ISP): 266.0 [M−H]−.

reactant | 4-(6-chloro-benzothiazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 7.65 mmol, 2.60 g | C(C)OC(=O)N1CCC(CC1)NC=1SC2=C(N1)C=CC(=C2)Cl | C15H18ClN3O2S
reactant | hydrobromic acid | Br | BrH
solvent | water | 60 mL | O | H2O
product | (6-Chloro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrobromide | 3.26 g, 99% | Br.Br.ClC1=CC2=C(N=C(S2)NC2CCNCC2)C=C1 | InChI=1S/C12H14ClN3S.2BrH/c13-8-1-2-10-11(7-8)17-12(16-10)15-9-3-5-14-6-4-9;;/h1-2,7,9,14H,3-6H2,(H,15,16);2*1H
